US09062076B2
A stirred solution of Pd(OAc)2 (16 mg, 0.07 mmol), PPh3 (61 mg, 0.23 mmol), Et3N (0.58 mL, 4.2 mmol) and (Z)-ethyl 4-(2-iodo-4,5-dimethoxybenzamido)but-2-enoate (860 mg, 2.1 mmol) in dry CH3CN (20 mL) was heated at 70° C. overnight under an argon atmosphere. The reaction was allowed to cool to room temperature and then concentrated under reduced pressure. The residue was purified by flash chromatography using DCM/MeOH 100:1 (v:v) as eluent to give (Z)-ethyl 2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetate (510 mg, 83%). LC-MS (ES-API); rt 7.56 min; m/z calculated for C15H17NO5 [M+H]+ 292.1, found 292.1.

reactant | PPh3 | 0.23 mmol, 61 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Et3N | 4.2 mmol, 0.58 mL | CCN(CC)CC | C6H15N
reactant | (Z)-ethyl 4-(2-iodo-4,5-dimethoxybenzamido)but-2-enoate | 2.1 mmol, 860 mg | IC1=C(C(=O)NC\C=C/C(=O)OCC)C=C(C(=C1)OC)OC | C15H18INO5
solvent | CH3CN | 20 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 0.07 mmol, 16 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (Z)-ethyl 2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetate | 510 mg, 83% | COC=1C=C2/C(/CNC(C2=CC1OC)=O)=C/C(=O)OCC | C15H17NO5
